* USB-C PD Trigger Circuit
V1 V_IN 0 DC 20V
U1 V_IN 0 V_OUT 0 STM32G0B1
U2 V_IN 0 V_OUT 0 TPS63050
Q1 V_OUT 0 GND GND IRF7413
R1 V_OUT GND 1kΩ
L1 V_OUT GND 10uH
C1 V_OUT GND 10uF
* Analysis
.tran 1m 10m
.print tran V(V_OUT)
.end